US04661489
2-(Triphenylmethyl)-4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine
Triphenylmethyl chloride (0.47 g) was added to a mixture of 4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine (0.31 g) and triethylamine (0.25 ml) in chloroform (25 ml, ethanol-free) at 0°. The mixture was maintained at 0° for 30 min then at room temperature for 90 min. The solution was washed with saturated sodium bicarbonate solution, dried (MgSO4) and evaporated. The residue was purified by column chromatography (SiO2, Et2O) to give the title compound (0.66 g, 100%) as a white powder.

reactant | Triphenylmethyl chloride | 0.47 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine | 0.31 g | O=C1CNCC2N1CCCC1=C2C=CC=C1 | C13H16N2O
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(Triphenylmethyl)-4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine | 0.66 g, 100% | C1(=CC=CC=C1)C(N1CC2N(CCCC3=C2C=CC=C3)C(C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H30N2O
